US07220777B2
4′-Chloro-3-(1,1-dichloromethyl)-4-nitrobiphenyl (0.4 g, 1.26 mmol) was dissolved in methanolic sodium methoxide (15 mL; 0.5 M). The mixture was refluxed for 12 hours under argon. The solvent was evaporated and the residue diluted in 1,4-dioxane (15 ml) and water (1 ml), then a few drops of concentrated HCl were added. The reaction mixture was stirred at 100° C. for 4 hours. The solvent was then evaporated and the crude mixture purified by flash chromatography on silica gel (eluting with dichloromethane in petroleum ether) to yield the 4′-chloro-4-nitrobiphenyl-3-carbaldehyde (0.32 g, 1.26 mmol); m/z (APCI−) 260 (40%, [M−H]−), 231 (100%). This aldehyde (0.32 g, 1.26 mmol) was dissolved in acetic acid (5 mL) and sodium perborate (0.23 g, 1.5 mmol) was added. The resulting mixture was stirred at 50° C. for 16 h. The mixture was cooled, the solvent was evaporated, ethyl acetate was added and the organic layer washed with water, dried over MgSO4 and evaporated to yield the 4′-chloro-4-nitrobiphenyl-3-carboxylic acid (0.14 g, 41%); m/z [APCI−] 276 (100%, [M−H−], 247 (60%).

reactant | 4′-Chloro-3-(1,1-dichloromethyl)-4-nitrobiphenyl | 1.26 mmol, 0.4 g | ClC1=CC=C(C=C1)C1=CC(=C(C=C1)[N+](=O)[O-])C(Cl)Cl | C13H8Cl3NO2
reactant | sodium methoxide | 0.5 M, 15 mL | C[O-].[Na+]
product | 4′-chloro-4-nitrobiphenyl-3-carbaldehyde | 1.26 mmol, 0.32 g | ClC1=CC=C(C=C1)C1=CC(=C(C=C1)[N+](=O)[O-])C=O | C13H8ClNO3
